US07462630B2
Synthesis of (1R)-N-{2-[4-(10,11-dihydro-5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl}-2,2-dimethylcyclopropane carboxyamide
72.8 mg of palladium carbon (10% w/v) was added to 72.8 mg (0.171 mmol) of (1R)-N-{2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl}-2,2-dimethylcyclopropanecarboxyamide in 10 ml of ethanol, and they were stirred at 4.0 MPa in hydrogen gas atmosphere overnight. After the filtration, the solvent was evaporated under reduced pressure to obtain the title compound.

reactant | (1R)-N-{2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl}-2,2-dimethylcyclopropanecarboxyamide | 0.171 mmol, 72.8 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CNC(=O)C[C@@H]3C(C3)(C)C)=O | C29H32N2O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | palladium carbon | 72.8 mg | [C].[Pd]
product | (1R)-N-{2-[4-(10,11-dihydro-5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl}-2,2-dimethylcyclopropane carboxyamide | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=C3CCN(CC3)C(CNC(=O)C[C@@H]3C(C3)(C)C)=O | C29H34N2O2
